US09193694B2
1-methyl-4-(pyrimidin-2-ylmethyl)-7-(4-(trifluoromethoxy)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (Compound X-3)
1-Methyl-7-(4-(trifluoromethoxy)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (22.9 mg, 0.065 mmol) and NaH (15.6 mg, 0.650 mmol, 10.0 equiv.) were placed in a 0.5-2 mL Smith process vial. To the vial was added DMF (0.5 mL) followed by 2-(chloromethyl)pyrimidine hydrochloride (53.9 mg, 0.327 mmol, 5 equiv.) was added at room temperature. After stirring for 50 min, reaction was quenched with AcOH. Resulting mixture was filtered and purified via preparative reverse phase HPLC to give the title compound (2.2 mg) as a clear yellow film.

reactant | 1-Methyl-7-(4-(trifluoromethoxy)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 0.065 mmol, 22.9 mg | CN1C(CNC(C2=C1C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)=O)=O | C17H13F3N2O3
reactant | NaH | 0.650 mmol, 15.6 mg, 10.0 equiv. | [H-].[Na+]
reactant | 2-(chloromethyl)pyrimidine hydrochloride | 0.327 mmol, 53.9 mg, 5 equiv. | Cl.ClCC1=NC=CC=N1
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-methyl-4-(pyrimidin-2-ylmethyl)-7-(4-(trifluoromethoxy)phenyl)-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 2.2 mg | CN1C(CN(C(C2=C1C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)=O)CC2=NC=CC=N2)=O | C22H17F3N4O3
